US07732463B2
1-Bromo-5-fluoro-2-(2,4-dimethyl-phenylsulfanyl)-benzene (intermediate for 2i).
Prepared from 2,4-dimethyl-benzenethiol and 2-bromo-4-fluoro-1-iodo-benzene.

reactant | 2,4-dimethyl-benzenethiol | CC1=C(C=CC(=C1)C)S | C8H10S
reactant | 2-bromo-4-fluoro-1-iodo-benzene | BrC1=C(C=CC(=C1)F)I | C6H3BrFI
product | 1-Bromo-5-fluoro-2-(2,4-dimethyl-phenylsulfanyl)-benzene | BrC1=C(C=CC(=C1)F)SC1=C(C=C(C=C1)C)C | C14H12BrFS
